* Psuedo NMOS Inverter

.include ./t14y_tsmc_025_level3.txt

m_load vtest 0 sl sl cmosp l=0.5u w=10u
m_driver vout gd 0 0 cmosn l=0.5u w=10u

v_dd sl 0 5
v_test vtest vout 0
v_in gd 0 PULSE(0 5 0 0 0 1n 2n)

.control

	foreach width 1u 10u 100u
		alter @m_load[w] = $width
		dc v_in 0 5 0.01
	end

	foreach width 1u 10u 100u
		alter @m_driver[w] = $width
		dc v_in 0 5 0.01
	end 

	foreach length 1u 10u 100u
		alter @m_load[l] = $length
		dc v_in 0 5 0.01
	end

	foreach length 1u 10u 100u
		alter @m_driver[l] = $length
		dc v_in 0 5 0.01
	end

*	foreach iter 1 2 3 4 5 6 7 8 9 10 11 12
*		setplot dc$iter
*		plot vout
*		hardcopy img/plot1_$iter vout
*	end

	alter @m_load[l] = 0.5u
	alter @m_load[w] = 10u
	alter @m_driver[l] = 0.5u
	alter @m_driver[w] = 10u

	tran 1p 2n
	setplot tran1
	plot vout, gd
	hardcopy img/plot1_current vout, gd
	plot 5*v_test#branch
	hardcopy img/plot1_power 5*v_test#branch
	
	meas tran Vmax MAX vout from=0.01n to=4n
        meas tran Vmin MIN vout from=0.01n to=4n

        let v10 = Vmin + 0.1*(Vmax - Vmin)
        let v50 = Vmin + 0.5*(Vmax - Vmin)
        let v90 = Vmin + 0.9*(Vmax - Vmin)

        print v10, v50, v90

        meas tran trise trig vout val=v10 rise=1 targ vout val=v90 rise=1
        print trise
        meas tran tfall trig vout val=v90 fall=1 targ vout val=v10 fall=1
        print tfall

        meas tran tphl trig gd val=2.5 rise=1 targ vout val=v50 fall=1
        meas tran tplh trig gd val=2.5 fall=1 targ vout val=v50 rise=1
        print tphl
        print tplh
        let tp = (tphl+tplh)/2
        print tp
	
.endc
.end
